US05025025
To a solution of 0.17 g (0.34 mmol) t-butyl 8-(p-chlorophenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoate in 5 mL methylene chloride is added 1 mL trifluoroacetic acid and the solution is stirred at room temperature for 1.5 hours. The solvent is evaporated and the residue taken up in 5 mL water. The pH of the solution is adjusted to 6.5 using 1N aqueous sodium hydroxide. Then the aqueous solution is extracted twice with ethyl acetate. The combined organic layer is washed with water and brine, dried, filtered and concentrated to give a pale yellow oil. The product is triturated five times with 2 mL ether and finally dried to yield 8-(p-chlorophenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoic acid, m.p. 136-138° C.

reactant | t-butyl 8-(p-chlorophenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoate | 0.34 mmol, 0.17 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC(C)(C)C)CCCN1C=NC=C1 | C24H36ClN3O4S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-(p-chlorophenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)O)CCCN1C=NC=C1 | C20H28ClN3O4S
